Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.2144221681400005
[C:6][H:7].[O:1]=[C:2]([H:3])[O:4][C:5][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.430013819289999
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5],2.97379205022
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.91707057003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2],6.496446886980001
[H:1][C:2]1([H:3])[O:4][C:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:6]([C:5]([H:3])([O:4]/[C:2]=[C:12](/[C:8]([H:9])([H:10])[H:11])[H:13])[H:14])[H:7],2.28606128155
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],3.3697683993400003
[H:1][O:2][C:3](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.72503991953
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]=[O:9],-0.18155742558
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.5018493581300003
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5],5.35595308478
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-3.88313365424
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],3.4779418855300004
[C:3]([H:4])([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],-2.72322035838
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.90419323887
[C:9][H:10].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[O:8]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10],-3.45769419265
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.88661989781
[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.88257315595
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.49856906459
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],-4.608029799880001
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.36969259201
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.05507934537
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.26386378365
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.18360902828
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.46023161818
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3],3.31484666688
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:5]=[O:6],2.23660136182
